US05338739
5-(3-Methoxyphenyl)-1-[2-(4-morpholinyl)ethyl]-2pyrrolidinone (12.8 g) was dissolved in 48% hydrobromic acid (100 ml) and warmed at 100° C. for 4.5 hrs. The reaction mixture was cooled to ambient temperature, neutralized with saturated sodium bicarbonate solution, and the mixture was extracted with dichloromethane (6 times). The combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated. The residue was purified by flash column chromatography (silica gel, ether). The appropriate fractions were collected and concentrated to give 3.3 g (55%) of 5-(3-hydroxyphenyl)-1-[2-(4-morpholinyl)ethyl]-2-pyrrolidinone.

reactant | 5-(3-Methoxyphenyl)-1-[2-(4-morpholinyl)ethyl]-2pyrrolidinone | 12.8 g | COC=1C=C(C=CC1)C1CCC(N1CCN1CCOCC1)=O | C17H24N2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrobromic acid | 100 ml | Br | BrH
product | 5-(3-hydroxyphenyl)-1-[2-(4-morpholinyl)ethyl]-2-pyrrolidinone | 3.3 g, 55% | OC=1C=C(C=CC1)C1CCC(N1CCN1CCOCC1)=O | C16H22N2O3
